### PR TITLE
Instantiate correctness proofs for bedrock2 tests

### PR DESCRIPTION
**Pull request by jadephilipoom**
As discussed in #757, this change removes the remaining admits in the bedrock2 translation tests with the help of Jason's shiny new `prove_Wf3` tactic (which I can now confirm works beautifully and quickly!) and the existing `PushButtonSynthesis` infrastructure.

Now, when I `Print Assumptions mulmod_bedrock_correct` in the 64-bit test, the only dependencies are:
```
FunctionalExtensionality.functional_extensionality_dep : 
forall (A : Type) (B : A -> Type) (f g : forall x : A, B x),
(forall x : A, f x = g x) -> f = g
SortedListString.TODO_andres : False
 used in string_strict_order to prove: SortedList.parameters.strict_order
                                         String.ltb
SortedList.TODO_andres : False
 used in map_ok to prove: forall (m : map.rep)
                            (k k' : SortedList.parameters.key),
                          k <> k' ->
                          map.get (map.remove m k') k = map.get m k
 used in map_ok to prove: forall (m : map.rep)
                            (k : SortedList.parameters.key),
                          map.get (map.remove m k) k = None
 used in map_ok to prove: forall (m : map.rep)
                            (k : SortedList.parameters.key)
                            (v : SortedList.parameters.value)
                            (k' : SortedList.parameters.key),
                          k <> k' ->
                          map.get (map.put m k' v) k = map.get m k
 used in map_ok to prove: forall (m : map.rep)
                            (k : SortedList.parameters.key)
                            (v : SortedList.parameters.value),
                          map.get (map.put m k v) k = Some v
```

I believe the first comes from the rewriter, and the second two from coqutil. @andres-erbsen just out of curiosity, how close are you to completing those todos? Is it worth it for me to try to prove them?

The 32-bit `Print Assumptions` is the same, except it has an extra axiom for the `Semantics.parameters_ok` instance that is missing from `BasicC32Semantics` (see mit-plv/bedrock2#151).

Relevant prior discussion:
https://github.com/mit-plv/fiat-crypto/pull/757#discussion_r410706758
https://github.com/mit-plv/fiat-crypto/pull/757#discussion_r410717055

### CODE REVIEW

**Comment by andres-erbsen** [comment]
The admits you encountered are annoying and way down my backlog right now. I mean it would be great if you proved them...

File: src/Bedrock/Tests/Proofs/X25519_32.v [hunk 1]
```diff
@@ -40,8 +45,9 @@ Import X25519_32.
 Local Coercion name_of_func (f : bedrock_func) := fst f.
 
 Existing Instance Defaults32.default_parameters.
+
 Axiom BasicC32Semantics_parameters_ok : Semantics.parameters_ok BasicC32Semantics.parameters.
-(* TODO: why does BasicC32Semantics not have a Semantics.parameters_ok instance? *) }
```
Comment (JasonGross) [inline src/Bedrock/Tests/Proofs/X25519_32.v:44]: How was this passing the CI before? o.O

File: src/Bedrock/Tests/Proofs/X25519_32.v [hunk 2]
```diff
@@ -93,10 +117,9 @@ Section Proofs.
     vm_compute; reflexivity.
   Qed.
 
-  (* TODO: ask Jason for help *)
   Lemma mulmod_Wf :
     Wf.Compilers.expr.Wf3 mulmod.
-  Admitted.
+  Proof. Compilers.prove_Wf3 (). Qed.
```
Comment (JasonGross) [inline src/Bedrock/Tests/Proofs/X25519_32.v:122]: I think it might be nicer to `Import Language.Compilers` above, and then you can just call `prove_Wf3` here.

File: src/Bedrock/Tests/Proofs/X25519_32.v [hunk 3]
```diff
@@ -107,17 +130,78 @@ Section Proofs.
...
+  Lemma mulmod_carry_mul_correct :
+    Solinas.carry_mul_correct
+      (weight
+         (QArith_base.Qnum
+            (QArith_base.Qdiv (QArith_base.inject_Z (Z.log2_up M))
+                              (QArith_base.inject_Z (Z.of_nat n))))
+         (Z.pos
+            (QArith_base.Qden
+               (QArith_base.Qdiv (QArith_base.inject_Z (Z.log2_up M))
+                                 (QArith_base.inject_Z (Z.of_nat n))))))
```
Comment (JasonGross) [inline src/Bedrock/Tests/Proofs/X25519_32.v:170]: Same comment as above about notations

File: src/Bedrock/Tests/Proofs/X25519_32.v [hunk 4]
```diff
@@ -107,17 +130,78 @@ Section Proofs.
...
+      n M
+      (UnsaturatedSolinas.tight_bounds n s c)
+      (UnsaturatedSolinas.loose_bounds n s c)
+      (expr.Interp (@Compilers.ident_interp) mulmod).
```
Comment (JasonGross) [inline src/Bedrock/Tests/Proofs/X25519_32.v:174]: If you `Require Import Crypto.Langauge.API` (might also need to `Import API.Compilers`, then I believe you can just do
```suggestion
      (API.Interp mulmod).
```

File: src/Bedrock/Tests/Proofs/X25519_32.v [hunk 5]
```diff
@@ -107,17 +130,78 @@ Section Proofs.
...
-  Admitted.
+    length x = n ->
+    length y = n ->
+    list_Z_bounded_by loose_bounds x ->
+    list_Z_bounded_by loose_bounds y ->
+    let xy :=
+        map word.wrap
+            (type.app_curried
+               (expr.interp (@Compilers.ident_interp)
+                            (mulmod API.interp_type))
```
Comment (JasonGross) [inline src/Bedrock/Tests/Proofs/X25519_32.v:190]:
```suggestion
               (API.Interp mulmod)
```

File: src/Bedrock/Tests/Proofs/X25519_64.v [hunk 6]
```diff
@@ -59,8 +62,17 @@ Section Proofs.
...
-  Local Notation idxs := ((List.seq 0 n ++ [0; 1])%list%nat).
+    (eval (weight
+         (QArith_base.Qnum
+            (QArith_base.Qdiv (QArith_base.inject_Z (Z.log2_up M))
+                              (QArith_base.inject_Z (Z.of_nat n))))
+         (Z.pos
+            (QArith_base.Qden
+               (QArith_base.Qdiv (QArith_base.inject_Z (Z.log2_up M))
+                                 (QArith_base.inject_Z (Z.of_nat n))))))
+          n).
```
Comment (JasonGross) [inline src/Bedrock/Tests/Proofs/X25519_64.v:73]: Same comment as in the 32-bit file

File: src/Bedrock/Tests/Proofs/X25519_64.v [hunk 7]
```diff
@@ -99,10 +113,9 @@ Section Proofs.
     vm_compute; reflexivity.
   Qed.
 
-  (* TODO: ask Jason for help *)
   Lemma mulmod_Wf :
     Wf.Compilers.expr.Wf3 mulmod.
-  Admitted.
+  Proof. Compilers.prove_Wf3 (). Qed.
```
Comment (JasonGross) [inline src/Bedrock/Tests/Proofs/X25519_64.v:118]: Same comment as in the 32-bit file

File: src/Bedrock/Tests/Proofs/X25519_64.v [hunk 8]
```diff
@@ -135,75 +149,55 @@ Section Proofs.
...
+  Lemma mulmod_carry_mul_correct :
+    Solinas.carry_mul_correct
+      (weight
+         (QArith_base.Qnum
+            (QArith_base.Qdiv (QArith_base.inject_Z (Z.log2_up M))
+                              (QArith_base.inject_Z (Z.of_nat n))))
+         (Z.pos
+            (QArith_base.Qden
+               (QArith_base.Qdiv (QArith_base.inject_Z (Z.log2_up M))
+                                 (QArith_base.inject_Z (Z.of_nat n))))))
```
Comment (JasonGross) [inline src/Bedrock/Tests/Proofs/X25519_64.v:166]: Same comment as in the 32-bit file

File: src/Bedrock/Tests/Proofs/X25519_64.v [hunk 9]
```diff
@@ -135,75 +149,55 @@ Section Proofs.
...
-                 (@Compilers.ident_interp) (mulmod API.interp_type))
-              (x, (y, tt)))) =
-    (eval x * eval y) mod M.
+    list_Z_bounded_by loose_bounds x ->
+    list_Z_bounded_by loose_bounds y ->
+    let xy :=
+        map word.wrap
+            (type.app_curried
+               (expr.interp (@Compilers.ident_interp)
+                            (mulmod API.interp_type))
```
Comment (JasonGross) [inline src/Bedrock/Tests/Proofs/X25519_64.v:186]:
```suggestion
               (API.Interp mulmod)
```

File: src/Bedrock/Tests/Proofs/X25519_64.v [hunk 10]
```diff
@@ -135,75 +149,55 @@ Section Proofs.
...
+            (QArith_base.Qdiv (QArith_base.inject_Z (Z.log2_up M))
+                              (QArith_base.inject_Z (Z.of_nat n))))
+         (Z.pos
+            (QArith_base.Qden
+               (QArith_base.Qdiv (QArith_base.inject_Z (Z.log2_up M))
+                                 (QArith_base.inject_Z (Z.of_nat n))))))
+      n M
+      (UnsaturatedSolinas.tight_bounds n s c)
+      (UnsaturatedSolinas.loose_bounds n s c)
+      (expr.Interp (@Compilers.ident_interp) mulmod).
```
Comment (JasonGross) [inline src/Bedrock/Tests/Proofs/X25519_64.v:170]:
```suggestion
      (API.Interp mulmod).
```

File: src/Bedrock/Tests/Proofs/X25519_32.v (hunk 1 above)
Comment (jadephilipoom) [reply src/Bedrock/Tests/Proofs/X25519_32.v:44]: Yeah, I'm also confused about that end bracket working...

Comment (JasonGross) [reply src/Bedrock/Tests/Proofs/X25519_32.v:44]: Turns out it's a bug in Coq!  Reported as https://github.com/coq/coq/issues/12138

File: src/Bedrock/Tests/Proofs/X25519_32.v [hunk 11]
```diff
@@ -56,35 +62,53 @@ Section Proofs.
...
-    (eval (weight limbwidth_num limbwidth_den) n).
+    (eval (weight
+         (QArith_base.Qnum
+            (QArith_base.Qdiv (QArith_base.inject_Z (Z.log2_up M))
+                              (QArith_base.inject_Z (Z.of_nat n))))
+         (Z.pos
+            (QArith_base.Qden
+               (QArith_base.Qdiv (QArith_base.inject_Z (Z.log2_up M))
+                                 (QArith_base.inject_Z (Z.of_nat n))))))
+          n).
```
[the remark this answers is not in the document]
Comment (jadephilipoom) [reply src/Bedrock/Tests/Proofs/X25519_32.v]: I couldn't get the coercions working within the notation, but I did still significantly shrink the expression by importing `QArith_base` and used the coercions in the other location where this term came up.
